US08957093B2
Step 2: 1-(2-Bromobenzyl)-N-(1-phenylpropyl)-1H-indole-5-carboxamide
The title compound was prepared following the same protocol as described in Step 4, Example 38, using 1-phenylpropan-1-amine instead of the (S)-1-(4-nitrophenyl)ethanamine hydrochloride, and 1-(2-Bromobenzyl)-2,3-dimethyl-1H-indole-5-carboxylic acid instead of the 1-(4-bromobenzyl)-1H-indole-5-carboxylic acid. ESI-MS (m/z): 447/449 [M+H]+.

reactant | 1-phenylpropan-1-amine | C1(=CC=CC=C1)C(CC)N | C9H13N
reactant | 1-(2-Bromobenzyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | BrC1=C(CN2C(=C(C3=CC(=CC=C23)C(=O)O)C)C)C=CC=C1 | C18H16BrNO2
product | 1-(2-Bromobenzyl)-N-(1-phenylpropyl)-1H-indole-5-carboxamide | BrC1=C(CN2C=CC3=CC(=CC=C23)C(=O)NC(CC)C2=CC=CC=C2)C=CC=C1 | C25H23BrN2O
